US08138197B2
Methyl 3-ethoxy-5-methoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoate
Methyl 3-ethoxy-4-bromo-5-methoxybenzoate (300 mg) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (324 mg) were dissolved in DME in a nitrogen atmosphere, and potassium phosphate (661 mg) and 1,1′-bis(diphenylphosphino)ferrocene palladium(II) chloride-CH2Cl2 complex (85 mg) were added to it at room temperature and degassed. The reaction liquid was stirred overnight at 90° C., then cooled to room temperature, water was added to it, and filtered through Celite. The filtrate was extracted with chloroform, washed with saturated saline water, and dried with sodium sulfate. Sodium sulfate was removed through filtration, the filtrate was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=100/0 to 40/60) to obtain the title compound as a white solid.

reactant | Methyl 3-ethoxy-4-bromo-5-methoxybenzoate | 300 mg | C(C)OC=1C=C(C(=O)OC)C=C(C1Br)OC | C11H13BrO4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 324 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 661 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
product | Methyl 3-ethoxy-5-methoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoate | C(C)OC=1C=C(C(=O)OC)C=C(C1C=1C=NN(C1)C)OC | C15H18N2O4
